simulator lang = spectre 
global 0 
parameters Fs=2G VDD=1 
include "/home/techfile/IBM65nm/IBM_PDK/cmos10lpe/V1.6.0.0RF/Spectre/models/design.scs" 
subckt Delay_Unit CN CP EN\<1\> EN\<2\> EN\<3\> EN\<4\> EX\<1\> EX\<2\> EX\<3\> EX\<4\> IN OUT VDD VSS 
	M29 ( net0142 VDD VDD VDD ) pfet l=100n w=800n nf=1  
	M33 ( net136 CP net0142 VDD ) pfet l=100n w=800n nf=1  
	M34 ( net0142 EN\<4\> VDD VDD ) pfet l=200n w=800n nf=1  
	M25 ( net136 VDD VDD VDD ) pfet l=100n w=800n nf=1  
	M32 ( net136 CP VDD VDD ) pfet l=100n w=800n nf=1  
	M27 ( VDD VDD VDD VDD ) pfet l=100n w=800n nf=1  
	M16 ( net125 IN net180 VSS ) lvtnfet l=100n w=400n nf=1  
	M15 ( net180 VSS EN\<1\> VSS ) lvtnfet l=60n w=400n nf=1  
	M24 ( EN\<1\> net125 EN\<1\> VSS ) lvtnfet l=60n w=400n nf=1  
	M14 ( EN\<1\> VSS EN\<2\> VSS ) lvtnfet l=60n w=400n nf=1  
	M23 ( EN\<2\> net125 EN\<2\> VSS ) lvtnfet l=60n w=400n nf=1  
	M17 ( EN\<3\> net125 EN\<3\> VSS ) lvtnfet l=60n w=400n nf=1  
	M13 ( EN\<2\> VSS EN\<3\> VSS ) lvtnfet l=60n w=400n nf=1  
	M12 ( EN\<3\> VSS VSS VSS ) lvtnfet l=60n w=400n nf=1  
	M22 ( OUT net125 VSS VSS ) lvtnfet l=60n w=800n nf=1  
	M6 ( EX\<3\> VDD VDD VDD ) lvtpfet l=60n w=800n nf=1  
	M11 ( EX\<3\> net125 EX\<3\> VDD ) lvtpfet l=60n w=800n nf=1  
	M8 ( EX\<2\> net125 EX\<2\> VDD ) lvtpfet l=60n w=800n nf=1  
	M4 ( EX\<1\> VDD EX\<2\> VDD ) lvtpfet l=60n w=800n nf=1  
	M9 ( EX\<1\> net125 EX\<1\> VDD ) lvtpfet l=60n w=800n nf=1  
	M3 ( net136 VDD EX\<1\> VDD ) lvtpfet l=60n w=800n nf=1  
	M5 ( EX\<2\> VDD EX\<3\> VDD ) lvtpfet l=60n w=800n nf=1  
	M7 ( net125 IN net136 VDD ) lvtpfet l=100n w=800n nf=1  
	M10 ( OUT net125 VDD VDD ) lvtpfet l=60n w=800n nf=1  
	M38 ( VSS VSS VSS VSS ) nfet l=100n w=400n nf=1  
	M35 ( net180 CN VSS VSS ) nfet l=100n w=400n nf=1  
	M42 ( net180 VSS VSS VSS ) nfet l=100n w=400n nf=1  
	M37 ( net193 EX\<4\> VSS VSS ) nfet l=200n w=400n nf=1  
	M39 ( net193 VSS VSS VSS ) nfet l=100n w=400n nf=1  
	M36 ( net180 CN net193 VSS ) nfet l=100n w=400n nf=1  
ends Delay_Unit 
subckt INV2 I ZN VDD VSS 
	M2 ( ZN I VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
	M0 ( ZN I VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
ends INV2 
subckt Delay_Chain CP ENB1\<1\> ENB1\<2\> ENB1\<3\> ENB1\<4\> ENB2\<1\> ENB2\<2\> ENB2\<3\> ENB2\<4\> ENB3\<1\> ENB3\<2\> ENB3\<3\> ENB3\<4\> ENB4\<1\> ENB4\<2\> ENB4\<3\> ENB4\<4\> ENB5\<1\> ENB5\<2\> ENB5\<3\> ENB5\<4\> ENB6\<1\> ENB6\<2\> ENB6\<3\> ENB6\<4\> ENB7\<1\> ENB7\<2\> ENB7\<3\> ENB7\<4\> ENB8\<1\> ENB8\<2\> ENB8\<3\> ENB8\<4\> O\<0\> O\<1\> O\<2\> O\<3\> O\<4\> O\<5\> O\<6\> O\<7\> O\<8\> VDD VSS CN 
	I8 ( CN CP EN8\<1\> EN8\<2\> EN8\<3\> EN8\<4\> EX8\<1\> EX8\<2\> EX8\<3\> EX8\<4\> O\<7\> O\<8\> VDD VSS ) Delay_Unit  
	I7 ( CN CP EN7\<1\> EN7\<2\> EN7\<3\> EN7\<4\> EX7\<1\> EX7\<2\> EX7\<3\> EX7\<4\> O\<6\> O\<7\> VDD VSS ) Delay_Unit  
	I6 ( CN CP EN6\<1\> EN6\<2\> EN6\<3\> EN6\<4\> EX6\<1\> EX6\<2\> EX6\<3\> EX6\<4\> O\<5\> O\<6\> VDD VSS ) Delay_Unit  
	I5 ( CN CP EN5\<1\> EN5\<2\> EN5\<3\> EN5\<4\> EX5\<1\> EX5\<2\> EX5\<3\> EX5\<4\> O\<4\> O\<5\> VDD VSS ) Delay_Unit  
	I4 ( CN CP EN4\<1\> EN4\<2\> EN4\<3\> EN4\<4\> EX4\<1\> EX4\<2\> EX4\<3\> EX4\<4\> O\<3\> O\<4\> VDD VSS ) Delay_Unit  
	I3 ( CN CP EN3\<1\> EN3\<2\> EN3\<3\> EN3\<4\> EX3\<1\> EX3\<2\> EX3\<3\> EX3\<4\> O\<2\> O\<3\> VDD VSS ) Delay_Unit  
	I2 ( CN CP EN2\<1\> EN2\<2\> EN2\<3\> EN2\<4\> EX2\<1\> EX2\<2\> EX2\<3\> EX2\<4\> O\<1\> O\<2\> VDD VSS ) Delay_Unit  
	I1 ( CN CP EN1\<1\> EN1\<2\> EN1\<3\> EN1\<4\> EX1\<1\> EX1\<2\> EX1\<3\> EX1\<4\> O\<0\> O\<1\> VDD VSS ) Delay_Unit  
	M1 ( VSS CN VSS VSS ) dgnfet l=280.0n w=1.125u nf=1  
	I81 ( EN8\<4\> EX8\<4\> VDD VSS ) INV2  
	I80 ( EN7\<4\> EX7\<4\> VDD VSS ) INV2  
	I79 ( EN6\<4\> EX6\<4\> VDD VSS ) INV2  
	I78 ( EN5\<4\> EX5\<4\> VDD VSS ) INV2  
	I77 ( EN4\<4\> EX4\<4\> VDD VSS ) INV2  
	I76 ( EN3\<4\> EX3\<4\> VDD VSS ) INV2  
	I75 ( EN2\<4\> EX2\<4\> VDD VSS ) INV2  
	I74 ( EN1\<4\> EX1\<4\> VDD VSS ) INV2  
	I73 ( ENB8\<4\> EN8\<4\> VDD VSS ) INV2  
	I72 ( ENB8\<3\> EN8\<3\> VDD VSS ) INV2  
	I71 ( EN8\<3\> EX8\<3\> VDD VSS ) INV2  
	I70 ( ENB8\<2\> EN8\<2\> VDD VSS ) INV2  
	I69 ( EN8\<2\> EX8\<2\> VDD VSS ) INV2  
	I68 ( ENB8\<1\> EN8\<1\> VDD VSS ) INV2  
	I67 ( EN8\<1\> EX8\<1\> VDD VSS ) INV2  
	I65 ( EN7\<1\> EX7\<1\> VDD VSS ) INV2  
	I64 ( ENB7\<1\> EN7\<1\> VDD VSS ) INV2  
	I63 ( EN7\<2\> EX7\<2\> VDD VSS ) INV2  
	I62 ( ENB7\<2\> EN7\<2\> VDD VSS ) INV2  
	I61 ( EN7\<3\> EX7\<3\> VDD VSS ) INV2  
	I60 ( ENB7\<3\> EN7\<3\> VDD VSS ) INV2  
	I59 ( ENB7\<4\> EN7\<4\> VDD VSS ) INV2  
	I57 ( ENB6\<1\> EN6\<1\> VDD VSS ) INV2  
	I56 ( ENB6\<2\> EN6\<2\> VDD VSS ) INV2  
	I55 ( ENB6\<3\> EN6\<3\> VDD VSS ) INV2  
	I54 ( EN6\<1\> EX6\<1\> VDD VSS ) INV2  
	I53 ( EN6\<2\> EX6\<2\> VDD VSS ) INV2  
	I52 ( EN6\<3\> EX6\<3\> VDD VSS ) INV2  
	I50 ( ENB6\<4\> EN6\<4\> VDD VSS ) INV2  
	I49 ( ENB5\<4\> EN5\<4\> VDD VSS ) INV2  
	I47 ( EN5\<3\> EX5\<3\> VDD VSS ) INV2  
	I46 ( EN5\<2\> EX5\<2\> VDD VSS ) INV2  
	I45 ( EN5\<1\> EX5\<1\> VDD VSS ) INV2  
	I44 ( ENB5\<3\> EN5\<3\> VDD VSS ) INV2  
	I43 ( ENB5\<2\> EN5\<2\> VDD VSS ) INV2  
	I42 ( ENB5\<1\> EN5\<1\> VDD VSS ) INV2  
	I41 ( ENB4\<1\> EN4\<1\> VDD VSS ) INV2  
	I40 ( ENB4\<2\> EN4\<2\> VDD VSS ) INV2  
	I39 ( ENB4\<3\> EN4\<3\> VDD VSS ) INV2  
	I38 ( EN4\<1\> EX4\<1\> VDD VSS ) INV2  
	I37 ( EN4\<2\> EX4\<2\> VDD VSS ) INV2  
	I36 ( EN4\<3\> EX4\<3\> VDD VSS ) INV2  
	I34 ( ENB4\<4\> EN4\<4\> VDD VSS ) INV2  
	I33 ( ENB3\<4\> EN3\<4\> VDD VSS ) INV2  
	I31 ( EN3\<3\> EX3\<3\> VDD VSS ) INV2  
	I30 ( EN3\<2\> EX3\<2\> VDD VSS ) INV2  
	I29 ( EN3\<1\> EX3\<1\> VDD VSS ) INV2  
	I28 ( ENB3\<3\> EN3\<3\> VDD VSS ) INV2  
	I27 ( ENB3\<2\> EN3\<2\> VDD VSS ) INV2  
	I26 ( ENB3\<1\> EN3\<1\> VDD VSS ) INV2  
	I25 ( ENB2\<1\> EN2\<1\> VDD VSS ) INV2  
	I24 ( ENB2\<2\> EN2\<2\> VDD VSS ) INV2  
	I23 ( ENB2\<3\> EN2\<3\> VDD VSS ) INV2  
	I22 ( EN2\<1\> EX2\<1\> VDD VSS ) INV2  
	I21 ( EN2\<2\> EX2\<2\> VDD VSS ) INV2  
	I20 ( EN2\<3\> EX2\<3\> VDD VSS ) INV2  
	I18 ( ENB2\<4\> EN2\<4\> VDD VSS ) INV2  
	I15 ( ENB1\<4\> EN1\<4\> VDD VSS ) INV2  
	I14 ( EN1\<3\> EX1\<3\> VDD VSS ) INV2  
	I13 ( ENB1\<3\> EN1\<3\> VDD VSS ) INV2  
	I12 ( EN1\<2\> EX1\<2\> VDD VSS ) INV2  
	I11 ( ENB1\<2\> EN1\<2\> VDD VSS ) INV2  
	I10 ( EN1\<1\> EX1\<1\> VDD VSS ) INV2  
	I9 ( ENB1\<1\> EN1\<1\> VDD VSS ) INV2  
	C1 ( CN VSS VSS ) vncap w=23.9u l=24.0u botlev=1 toplev=1 setind=-1 rsx=50 botcap=-1 dtemp=0  
	C0 ( CP VSS VSS ) vncap w=23.9u l=24.0u botlev=1 toplev=1 setind=-1 rsx=50 botcap=-1 dtemp=0  
	M0 ( VDD CP VDD VDD ) dgpfet l=280.0n w=1.125u nf=1  
ends Delay_Chain 
subckt INV6 I ZN VDD VSS 
	M2 ( ZN I VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
	M0 ( ZN I VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
ends INV6 
subckt Trans_Gate I O VDD VSS 
	M2 ( I VDD O VSS ) lvtnfet l=60n w=390.0n nf=1  
	M0 ( I VSS O VDD ) lvtpfet l=60n w=520.0n nf=1  
ends Trans_Gate 
subckt BUFF6 I Z VDD VSS 
	M14 ( Z net6 VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
	M12 ( net6 I VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
	M15 ( Z net6 VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
	M13 ( net6 I VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
ends BUFF6 
subckt BUFF20 I Z VDD VSS 
	M14 ( Z net8 VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
	M12 ( net8 I VDD VDD ) lvtpfet l=60n w=520.0n nf=1  
	M1 ( Z net8 VSS VSS ) lvtnfet l=60n w=370.0n nf=1  
	M15 ( Z net8 VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
	M0 ( net8 I VSS VSS ) lvtnfet l=60n w=300n nf=1  
	M13 ( net8 I VSS VSS ) lvtnfet l=60n w=390.0n nf=1  
ends BUFF20 
subckt Phase_Detector CKI CK_DLL CK_REF DN DP UN UP VDD VSS 
	I53 ( net112 DP VDD VSS ) INV6  
	I48 ( net111 UP VDD VSS ) INV6  
	I0 ( net104 net112 VDD VSS ) Trans_Gate  
	I1 ( net103 net111 VDD VSS ) Trans_Gate  
	I52 ( net104 DN VDD VSS ) BUFF6  
	I38 ( net103 UN VDD VSS ) BUFF6  
	I2 ( CKI CK_REF VDD VSS ) BUFF20  
	T1 ( net104 CK_DLL net114 VSS ) lvtnfet l=60n w=800n nf=1  
	M33 ( net114 net98 VSS VSS ) lvtnfet l=60n w=800n nf=1  
	M39 ( net98 CK_REF VSS VSS ) lvtnfet l=60n w=800n nf=1  
	M35 ( net103 CK_REF net113 VSS ) lvtnfet l=60n w=800n nf=1  
	M31 ( net113 net97 VSS VSS ) lvtnfet l=60n w=800n nf=1  
	M29 ( net97 CK_DLL VSS VSS ) lvtnfet l=60n w=800n nf=1  
	T3 ( net115 CK_REF VDD VDD ) lvtpfet l=60n w=450.0n nf=1  
	T2 ( net98 CK_DLL net115 VDD ) lvtpfet l=60n w=450.0n nf=1  
	T0 ( net104 net98 VDD VDD ) lvtpfet l=60n w=450.0n nf=1  
	M32 ( net103 net97 VDD VDD ) lvtpfet l=60n w=450.0n nf=1  
	M34 ( net116 CK_DLL VDD VDD ) lvtpfet l=60n w=450.0n nf=1  
	M0 ( net97 CK_REF net116 VDD ) lvtpfet l=60n w=450.0n nf=1  
ends Phase_Detector 
subckt Charge_Pump CN CP DN DP IBS UN UP VDD VSS 
	M0 ( VDD IBS VDD VDD ) dgpfet l=280.0n w=1.18u nf=1  
	M14 ( Nz IBS VDD VDD ) pfet l=200n w=800n nf=1  
	M10 ( net0128 net38 VSS VSS ) nfet l=200n w=800n nf=1  
	M3 ( Ny IBS VDD VDD ) pfet l=200n w=800n nf=1  
	M13 ( Nz IBS VDD VDD ) pfet l=200n w=800n nf=1  
	M18 ( CP CP VDD VDD ) pfet l=100n w=800n nf=1  
	M7 ( net0121 IBS VDD VDD ) pfet l=200n w=800n nf=1  
	M6 ( IBS IBS VDD VDD ) pfet l=200n w=800n nf=1  
	M16 ( net38 net38 VSS VSS ) nfet l=200n w=800n nf=1  
	M26 ( CP CN VSS VSS ) nfet l=100n w=800n nf=1  
	M1 ( Nx net0121 VSS VSS ) nfet l=200n w=400n nf=1  
	M8 ( net0121 net0121 VSS VSS ) nfet l=200n w=400n nf=1  
	M4 ( CN DP Nx VSS ) lvtnfet l=60n w=400n nf=1  
	M9 ( net0128 DN Nx VSS ) lvtnfet l=60n w=400n nf=1  
	M11 ( net0128 net0128 Nz VDD ) lvtpfet l=60n w=800n nf=1  
	M12 ( net38 CN Nz VDD ) lvtpfet l=60n w=800n nf=1  
	M17 ( net0128 UP Ny VDD ) lvtpfet l=60n w=800n nf=1  
	M2 ( CN UN Ny VDD ) lvtpfet l=60n w=800n nf=1  
ends Charge_Pump 
subckt DLL_core CKI CK_REF ENB1\<1\> ENB1\<2\> ENB1\<3\> ENB1\<4\> ENB2\<1\> ENB2\<2\> ENB2\<3\> ENB2\<4\> ENB3\<1\> ENB3\<2\> ENB3\<3\> ENB3\<4\> ENB4\<1\> ENB4\<2\> ENB4\<3\> ENB4\<4\> ENB5\<1\> ENB5\<2\> ENB5\<3\> ENB5\<4\> ENB6\<1\> ENB6\<2\> ENB6\<3\> ENB6\<4\> ENB7\<1\> ENB7\<2\> ENB7\<3\> ENB7\<4\> ENB8\<1\> ENB8\<2\> ENB8\<3\> ENB8\<4\> IBS O\<1\> O\<2\> O\<3\> O\<4\> O\<5\> O\<6\> O\<7\> O\<8\> VDD VSS V_CTRLn V_CTRLp 
	I54 ( V_CTRLp ENB1\<1\> ENB1\<2\> ENB1\<3\> ENB1\<4\> ENB2\<1\> ENB2\<2\> ENB2\<3\> ENB2\<4\> ENB3\<1\> ENB3\<2\> ENB3\<3\> ENB3\<4\> ENB4\<1\> ENB4\<2\> ENB4\<3\> ENB4\<4\> ENB5\<1\> ENB5\<2\> ENB5\<3\> ENB5\<4\> ENB6\<1\> ENB6\<2\> ENB6\<3\> ENB6\<4\> ENB7\<1\> ENB7\<2\> ENB7\<3\> ENB7\<4\> ENB8\<1\> ENB8\<2\> ENB8\<3\> ENB8\<4\> CK_REF O\<1\> O\<2\> O\<3\> O\<4\> O\<5\> O\<6\> O\<7\> O\<8\> VDD VSS V_CTRLn ) Delay_Chain  
	I5 ( CKI O\<8\> CK_REF DN DP UN UP VDD VSS ) Phase_Detector  
	I52 ( V_CTRLn V_CTRLp DN DP IBS UN UP VDD VSS ) Charge_Pump  
ends DLL_core 
	V3 ( net08 0 ) vsource dc=0 type=pulse val0=0 val1=VDD period=1/Fs delay=10n rise=10p fall=10p width=0.5/Fs  
	I6 ( net08 CK_REF VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD VDD net07 CK\<1\> CK\<2\> CK\<3\> CK\<4\> CK\<5\> CK\<6\> CK\<7\> CK\<8\> VDD VSS V_CTRLn V_CTRLp ) DLL_core  
	V28 ( VSS 0 ) vsource dc=0 type=dc  
	V26 ( VDD 0 ) vsource dc=VDD type=dc  
	I8 ( net07 0 ) isource dc=20u type=dc  
ic CK\<1\>=0 CK\<2\>=0 CK\<3\>=0 CK\<4\>=0 CK\<5\>=0 CK\<6\>=0 CK\<7\>=0 CK\<8\>=0 V_CTRLn=0 V_CTRLp=0 
simulatorOptions options reltol=1e-3 vabstol=1e-6 iabstol=1e-12 temp=27 \
    tnom=27 multithread=on nthreads=4 scalem=1.0 scale=1.0 gmin=1e-12 \
    rforce=1 maxnotes=5 maxwarns=5 digits=5 cols=80 pivrel=1e-3 \
    sensfile="../psf/sens.output" checklimitdest=psf 
tran tran stop=0.1u errpreset=moderate write="spectre.ic" \
    writefinal="spectre.fc" annotate=status maxiters=5 
finalTimeOP info what=oppoint where=rawfile
dcOp dc write="spectre.dc" maxiters=150 maxsteps=10000 annotate=status
dcOpInfo info what=oppoint where=rawfile
modelParameter info what=models where=rawfile
element info what=inst where=rawfile
outputParameter info what=output where=rawfile
designParamVals info what=parameters where=rawfile
primitives info what=primitives where=rawfile
subckts info what=subckts where=rawfile
save I6:44 
saveOptions options save=allpub
